US07615532B2
To a solution of mono-tert-butyl octadecanedioate (1.00 g, 2.7 mmol) in dry THF (8 ml), was added DIPEA (0,555 ml, 3.2 mmol) followed by TSTU (1.00 g, 3.2 mmol). The reaction mixture was stirred under nitrogen for 18 h. The solvent had evaporated. AcOEt was added to the residue and the resulting suspension was filtered. The filtrate was washed with cold 0.1 M HCl (2×) and water, dried and concentrated to give succinimidyl tert-butyl octadecandioate as a white solid.

reactant | mono-tert-butyl octadecanedioate | 2.7 mmol, 1.00 g | C(CCCCCCCCCCCCCCCCC(=O)[O-])(=O)OC(C)(C)C
reactant | DIPEA | 3.2 mmol, 0,555 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | TSTU | 3.2 mmol, 1.00 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | succinimidyl tert-butyl octadecandioate | 29% yield | C(CCCCCCCCCCCCCCCCC(=O)OC(C)(C)C)(=O)ON1C(CCC1=O)=O | C26H45NO6
